US07205403B2
Preparation of AS96
Condensation of 2-[5-(1,3-diallyl-xanthin-8-yl)-1-methyl-pyrazol-3-yl)oxyacetic acid (0.5 mmol) and N-phenyl-piperazine (1.3 mmol) in the presence of EDCl (1.12 mmol) and HOBt (1.14 mmol) in anhydrous dimethylformamide afforded the desired product.

reactant | 2-[5-(1,3-diallyl-xanthin-8-yl)-1-methyl-pyrazol-3-yl)oxyacetic acid | 0.5 mmol | C(C=C)N1C(=O)N(C=2N=C(NC2C1=O)C1=CC(=NN1C)OCC(=O)O)CC=C | C17H18N6O5
reactant | N-phenyl-piperazine | 1.3 mmol | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | EDCl | 1.12 mmol | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 1.14 mmol | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | AS96 | Yield: 27% | CN1/C(=C\2/N=C3C(=N2)N(C(=O)N(C3=O)CC=C)CC=C)/C=C(N1)OCC(=O)N4CCN(CC4)C5=CC=CC=C5 | C27H30N8O4
